US04652658
To 775 ml of concentrated sulfuric acid, preheated to 70° C., was added, with stirring, 136 g of isonitroso-3-chloroacetanilide at such a rate as to maintain the reaction medium at a temperature between 75° and 85° C. When all the solid had been added, the reaction mixture was heated at 90° C. for an additional 30 minutes. The reaction mixture was then cooled, and poured slowly onto ca 2 liters of ice, with stirring. Additional ice was added as necessary to maintain the temperature below room temperature. A red-orange precipitate formed which was recovered by filtration, washed with water and dried. The resultant solid was slurried in 2 liters of water, and then it was brought into solution by the addition of ca 700 ml of 3N sodium hydroxide. The solution was filtered, and then pH was adjusted to 8 with concentrated hydrochloric acid. At this point, 120 ml of a mixture of 80 parts water and 20 parts concentrated hydrochloric acid was added. The solid which precipitated was recovered by filtration, washed with water and dried to give 50 g of crude 4-chloroisatin. The filtrate from which the 4-chloroisatin had been recovered was further acidified to pH 0 using concentrated hydrochloric acid, wherenupon a further precipitate formed. It was recovered by filtration, washed with water and dried, to give 43 g of crude 6-chloroisatin.

reactant | sulfuric acid | 775 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-chloroacetanilide | CC(=O)NC1=CC(=CC=C1)Cl | C8H8ClNO
product | 4-chloroisatin | 50 g | ClC1=C2C(C(NC2=CC=C1)=O)=O | C8H4ClNO2
